US04004912
Preparation of Tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-(4-trifluoromethylbenzoyloxy)- 2(1H)-pyrimidinone
Tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)- 3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole), triethylamine (0.06 mole) and benzene (50 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 4-Trifluoromethylbenzoyl chloride (0.05 mole) is then added dropwise with stirring. After the addition is completed, the reaction mixture is heated at reflux with continued stirring for a period of about 30 minutes. After this time the reaction mixture is filtered and the filtrate is stripped of solvent under reduced pressure to yield a solid residue. The residue is recrystallized to yield the desired product tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-(4-trifluoromethylbenzoyloxy)-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)- 3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | C1(CC1)C1=NN=C(S1)N1C(N(CCC1O)C)=O | C10H14N4O2S
reactant | triethylamine | 0.06 mole | C(C)N(CC)CC | C6H15N
reactant | 4-Trifluoromethylbenzoyl chloride | 0.05 mole | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | tetrahydro-1-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-(4-trifluoromethylbenzoyloxy)-2(1H)-pyrimidinone | C1(CC1)C1=NN=C(S1)N1C(N(CCC1OC(C1=CC=C(C=C1)C(F)(F)F)=O)C)=O | C18H17F3N4O3S
